US05532258
Conc. hydrochloric acid (10 ml) was added slowly to a suspension of 4-(3-acetylaminomethylphenyl)-2-(diaminomethyleneamino)thiazole (2.8 g) in ethanol (100 ml). The mixture was refluxed for 18 hours. After cooling, the resulting precipitate was collected by filtration to afford 4-(3-aminomethylphenyl)-2-(diaminomethyleneamino)thiazole dihydrochloride (1.75 g).

reactant | hydrochloric acid | 10 ml | Cl | ClH
reactant | 4-(3-acetylaminomethylphenyl)-2-(diaminomethyleneamino)thiazole | 2.8 g | C(C)(=O)NCC=1C=C(C=CC1)C=1N=C(SC1)N=C(N)N | C13H15N5OS
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-(3-aminomethylphenyl)-2-(diaminomethyleneamino)thiazole dihydrochloride | 1.75 g | Cl.Cl.NCC=1C=C(C=CC1)C=1N=C(SC1)N=C(N)N | InChI=1S/C11H13N5S.2ClH/c12-5-7-2-1-3-8(4-7)9-6-17-11(15-9)16-10(13)14;;/h1-4,6H,5,12H2,(H4,13,14,15,16);2*1H
